US04326881
(6) 4-chloro-3-(2,3-dichlorophenyl)pyrol (Compound No. 1)
The mixture of 53 g of 4-chloro-3-(2,3-dichlorophenyl)pyrol-2,5-dicarboxylic acid, 2.65 g of cupric acid and 80 ml of quinoline was heated at 140°-150° C. for 30 minutes with stirring. To the resulting reaction mixture were added ethyl acetate, ice and concentrated hydrochloric acid which of molar amount was 1.1-time that of employed quinoline. The ethyl acetate layer was washed with successive, water, aqueous sodium carbonate and water. After dehydration, the ethyl acetate layer was evaporated to dryness under reduced pressure to obtain 33.1 g of brown product. The crude product was purified by silicagel chromatography and countercurrent distribution to obtain pale yellow oily substance. The oily substance was recrystallized from n-hexane to obtain 22.5 g of the desired product (colorless or pale yellow needles, m.p. 58°-59° C.).

reactant | 4-chloro-3-(2,3-dichlorophenyl)pyrol-2,5-dicarboxylic acid | 53 g | ClC=1C(=C(NC1C(=O)O)C(=O)O)C1=C(C(=CC=C1)Cl)Cl | C12H6Cl3NO4
reactant | quinoline | 80 ml | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-chloro-3-(2,3-dichlorophenyl)pyrol | 33.1 g | ClC=1C(=CNC1)C1=C(C(=CC=C1)Cl)Cl | C10H6Cl3N
